US07777047B2
N-{2-[8-(2-hydroxy-2-methylpropyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
To a solution of methyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1-thia-3,8-diazaspiro[4.5]dec-2-en-8-yl)acetate (211 mg) in tetrahydrofuran (3 mL) was added 1.5M methyllithium-diethyl ether solution (2 mL) at room temperature, and the mixture was stirred for 30 min. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (92 mg, yield 44%) as white crystals from a fraction eluted with ethyl acetate:hexane=1:3. melting point 191° C.

reactant | methyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1-thia-3,8-diazaspiro[4.5]dec-2-en-8-yl)acetate | 211 mg | CN(C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCN(CC2)CC(=O)OC)S(=O)(=O)C=2SC=CC2 | C23H26N4O4S3
reactant | methyllithium diethyl ether | 1.5M, 2 mL | C[Li].C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-{2-[8-(2-hydroxy-2-methylpropyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 92 mg, yield 44% | OC(CN1CCC2(CN=C(S2)C=2NC3=C(C=CC=C3C2)N(S(=O)(=O)C=2SC=CC2)C)CC1)(C)C | C24H30N4O3S3
